US05760032
Methyl (4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-2-yl)propionate (1.0 g) was stirred in 2M hydrochloric acid (12 ml) at 60° C. for 3.5 hours. Then, sodium hydrogencarbonate was added to the reaction mixture to make the mixture alkaline. Chloroform and indole-2-carbonyl chloride (0.55 g) were added, and the mixture was stirred at room temperature for 2 hours. An aqueous citric acid solution was added to adjust the solution to pH 3. The obtained crystals were collected by filtration, washed with water and ethyl acetate, and dried to give 3-(3-(2-chlorobenzoyl)-2-(3-(2-indolecarbonylaminomethyl)-5-methyl[1,2,4]triazol-4-yl)thiophen-5-yl)propionic acid.

reactant | Methyl (4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-2-yl)propionate | 1.0 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C(C(=O)OC)C)C(=NN2)C | C19H17ClN4O2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | indole-2-carbonyl chloride | 0.55 g | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | hydrochloric acid | 2M, 12 ml | Cl | ClH
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(3-(2-chlorobenzoyl)-2-(3-(2-indolecarbonylaminomethyl)-5-methyl[1,2,4]triazol-4-yl)thiophen-5-yl)propionic acid | ClC1=C(C(=O)C2=C(SC(=C2)CCC(=O)O)N2C(=NN=C2C)CNC(=O)C=2NC3=CC=CC=C3C2)C=CC=C1 | C27H22ClN5O4S
